US08252792B2
2-[4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide
To a solution of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (146 mg, 0.42 mmol) in DMF (5 mL) were added N,N-dimethyl-2-piperazin-1-yl-isobutyramide (100 mg, 0.50 mmol), cesium carbonate (273 mg, 0.837 mmol) and water (23 μL, 1.26 mmol). The resulting mixture was stirred at RT for 17 h. The reaction mixture was loaded directly onto an Isolute® SCX-2 cartridge, washed with MeOH, then eluted with 2 M NH3 in MeOH. The resulting residue was purified by column chromatography to give the title compound as an off-white solid (131mg, 67%).

reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.42 mmol, 146 mg | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | N,N-dimethyl-2-piperazin-1-yl-isobutyramide | 0.50 mmol, 100 mg | CN(C(C(C)(C)N1CCNCC1)=O)C | C10H21N3O
reactant | cesium carbonate | 0.837 mmol, 273 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1.26 mmol, 23 μL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide | 131mg, 67% | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(C(=O)N(C)C)(C)C)N2CCOCC2 | C21H31ClN6O2S
